US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(3-methyl-1,2,3-triazol-4-yl) thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (900 mg: 0.869 mMol.) in a mixture of anisole (4 ml) and nitromethane (16 ml) is added a solution of aluminum chloride (924 mg: 6.95 mMol.) in anisole (2 ml) at -40° C., and the mixture is stirred for 1 hour at -40°--30° C. The reaction mixture is diluted with 1N-hydrochloric acid (7 ml) and water and washed with ethyl acetate. The aqueous layer is concentrated under reduced pressure to remove organic solvent and passed through a column of styrene-divinylbenzene copolymer adsorbent. The product is eluted with methanol-water (4:1) to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(3-methyl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid as pale yellow powder (366 mg). Yield: 80%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(3-methyl-1,2,3-triazol-4-yl) thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.869 mMol, 900 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC=2N(N=NC2)C | C53H48N8O6S4
reactant | aluminum chloride | 6.95 mMol, 924 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 4 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 16 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrochloric acid | 7 ml | Cl | ClH
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(3-methyl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid | 366 mg, Yield: 80% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2N(N=NC2)C)C(=S)O)C1=O)=N/O | C16H16N8O4S4
